US07553850B2
9-Oxo-9H-xanthene-3-carboxylic acid (3d).
A solution of 9-oxo-9H-xanthene-3-carboxylic acid methyl ester (3.75 mmol) and 3 N sodium hydroxide (4.12 mmol) in MeOH (30 mL) was heated at reflux for 2 h. The solution was cooled to rt and made acidic with 2 N hydrochloric acid. The mixture was concentrated in vacuo, and then diluted with water. The resultant solid was collected by filtration, washed with water and air-dried to yield the title compound.

reactant | 9-oxo-9H-xanthene-3-carboxylic acid methyl ester | 3.75 mmol | COC(=O)C=1C=CC=2C(C3=CC=CC=C3OC2C1)=O | C15H10O4
reactant | sodium hydroxide | 4.12 mmol, 3 N | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 9-Oxo-9H-xanthene-3-carboxylic acid | O=C1C2=CC=CC=C2OC=2C=C(C=CC12)C(=O)O | C14H8O4
